* source CMOS-OPAMP
M_M1         N00140 0 0 0 PMOS_TRANSISTOR           
M_M2         N00140 0 0 0 PMOS_TRANSISTOR           
R_R1         0 N00140  1k TC=0,0 
R_R2         N00140 N002380  1k TC=0,0 
V_V1         N002380 0 10
